US08895313B2
Ethyl 4-(4,4,4-trifluorobutoxy)benzoate
A mixture of ethyl 4-hydroxybenzoate (0.46 g, 2.80 mmol), 1-iodo-4,4,4-trifluorobutane (0.67 g, 2.80 mmol) and anhydrous K2CO3 (1.16 g, 8.40 mmol) in methyl ethyl ketone (5 ml) was heated under reflux for 4 h under an atmosphere of argon. On cooling to room temperature, the solvent was removed under reduced pressure and the residue was partitioned between water (15 ml) and Et2O (30 ml). The organic layer was separated, and the aqueous phase extracted with Et2O (2×20 ml). The combined organic extracts were washed with brine (15 ml) and dried (Na2SO4). The solvent was removed under reduced pressure to give a solid which was purified by flash chromatography (3:1 Hexane/EtOAc) to give the title compound (0.67 g, 87%) as a colourless solid.

reactant | ethyl 4-hydroxybenzoate | 2.80 mmol, 0.46 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1-iodo-4,4,4-trifluorobutane | 2.80 mmol, 0.67 g | ICCCC(F)(F)F | C4H6F3I
reactant | K2CO3 | 8.40 mmol, 1.16 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methyl ethyl ketone | 5 ml | C(C)C(=O)C | C4H8O
product | Ethyl 4-(4,4,4-trifluorobutoxy)benzoate | 0.67 g, 87% | FC(CCCOC1=CC=C(C(=O)OCC)C=C1)(F)F | C13H15F3O3
